US07067665B2
(ii) [1-(N-Hydroxycarbamimidoyl)-piperidin-4-ylmethyl]-carbamic acid tert-butyl ester
(1-Cyano-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester (2 g, 8.36 mmol), hydroxylamine hydrochloride (3.48 g, 50.14 mmol) and triethylamine (5.92 g, 58.5 mmol) were stirred in 30 ml of isopropanol at room temperature for 4 hours. The mixture was evaporated. After addition of water (pH4) and ethyl acetate, the organic layer was separated and evaporated.

reactant | (1-Cyano-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester | 8.36 mmol, 2 g | C(C)(C)(C)OC(NCC1CCN(CC1)C#N)=O | C12H21N3O2
reactant | hydroxylamine hydrochloride | 50.14 mmol, 3.48 g | Cl.NO
reactant | triethylamine | 58.5 mmol, 5.92 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | [1-(N-Hydroxycarbamimidoyl)-piperidin-4-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1CCN(CC1)C(NO)=N)=O | C12H24N4O3
